US04720500
The procedure is analogous to that described in Example 11, but starting with 3-bromobenzoic acid (2.8 g), N,N'-carbonyldiimidazole (2.3 g) and 2-amino-7-(3-fluorophenyl)-1,8-naphthyridine (2.4 g). The product obtained by precipitation in water (3.5 g; m.p. approximately 195° C.) is dissolved in a boiling mixture of dimethylformamide (20 cc) and acetonitrile (200 cc). After cooling for 4 hours at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (3×10 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(3-Fluorophenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide (2.3 g), m.p. 208° C., is obtained.

reactant | 3-bromobenzoic acid | 2.8 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 2-amino-7-(3-fluorophenyl)-1,8-naphthyridine | 2.4 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC(=CC=C1)F | C14H10FN3
solvent | water | 3.5 g | O | H2O
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | acetonitrile | 200 cc | C(C)#N | C2H3N
product | N-[7-(3-Fluorophenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide | 2.3 g | FC=1C=C(C=CC1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)Br)=O | C21H13BrFN3O
